US07153517B2
1) Synthesis of 4-(3-butenyloxy)phenol (1)
In a three-necked flask equipped with a dropping funnel, a mixture composed of potassium hydroxide (27 mmol) and hydroquinone (45 mmol) is dissolved in 400 ml of absolute ethanol by heating. Add 4-bromo-1-butene (Aldrich) (18 mmol) dropwise. Maintain at reflux for 4 hours. After being cooled and filtered the solvent is evaporated. The mixture is taken up in a solution of ice-cold water. That dissolves a part of the hydroquinone and leads to the appearance of a precipitate containing the desired product. Extract the product with ether. After three washings with water, the organic phase is dried over sodium sulfate then the solvent is evaporated. The phenyl is purified by chromatography on silica gel (eluent: heptane-ether 5/5). The yield of the reaction is of the order of 50%.

reactant | potassium hydroxide | 27 mmol | [OH-].[K+]
reactant | hydroquinone | 45 mmol | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | 4-bromo-1-butene | 18 mmol | BrCCC=C | C4H7Br
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | 4-(3-butenyloxy)phenol | C(CC=C)OC1=CC=C(C=C1)O | C10H12O2
